Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.894290408490001
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:9]([H:10])([H:11])[O:12][H:13].[H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-1.86436198963
[H:9].[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])=[C:7][H:8])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.89547979659
[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-0.6940030059899999
[H:1][C:2]1([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])([O:4][C:5]([H:6])[H:7])[C:11]([C:8]([H:9])[H:10])([H:12])[H:13],3.49409931
[H:1][C:2][O:3][C:4][O:6][H:7].[H:5]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][H:7],-3.33651150809
[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:12]([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.80544554842
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2],3.92573454377
[C:1]#[C:2][C:3]([H:4])[C:6]#[C:7].[C:5]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-5.93812336932
[C:13][H:14].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14],-8.72908321546
[C:4]#[C:5][C:6][O:7][H:8].[H:1][O:2][C:3]>>[H:1][O:2][C:3]#[C:4][C:5]#[C:6][O:7][H:8],-6.043843258990001
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])[H:6].[O:7]=[C:8][C:9]([H:10])([H:11])[H:12],0.181319947109
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:4].[O:1]=[C:2]=[C:3][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],3.56722000076
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:7]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-1.7320383558
[C:8]([H:9])[H:10].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-4.62868276494
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[C:7][O:8][H:9].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],2.6850729715599995
[H:1][C:2]([H:3])[O:4][C:5]([O:6][C:7]([H:8])[H:9])=[C:10]([H:11])[H:12]>>[C:5]([O:6][C:7]([H:8])[H:9])=[C:10]([H:11])[H:12].[H:1][C:2]([H:3])=[O:4],1.5619968011
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12])=[C:13]([H:14])[H:15]>>[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15],-1.18081130906
[C:10]([H:11])([H:12])[O:13][H:14].[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1][C:2][O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-3.65419124724
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C@:9]1([H:10])[C:11][O:12]1>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]=[O:12],-1.91666732132
[O:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:5].[O:1][O:2]/[C:3](=[C:4]\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],4.997116425980001
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.61260050901
[H:10].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]=[O:9]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][O:9][H:10],-1.73196206883
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:8].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:9]=[C:10]([H:11])[H:12],1.76257084965
[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])[O:8][H:9]>>[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])=[O:8].[H:9],1.55443232961
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:4]#[C:5][H:6].[H:1][C:2]([C:3][C:9]([H:10])([H:11])[O:12][H:13])([H:7])[H:8],6.635186259659999
[H:13].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-1.97518838969
[C:3]([H:4])([H:15])[H:16].[H:1][C:2]([C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12])=[C:13][H:14]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.29000205436
[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4][C:5]=[C:6]([H:7])[H:8],2.40802033526
[O:1]=[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11]>>[C:3]#[C:4][C:5]([H:6])([H:7])[H:8].[O:1]=[C:2]=[C:9]([H:10])[H:11],3.0067898055799995
